US04022897
A mixture of 139.0 g of 4-hydroxypicolinic acid and 238.0 g of thionyl chloride are heated in an oil bath at 70° until solution occurs. The mixture is concentrated in vacuo to remove the excess thionyl chloride and to leave a residue of 4-hydroxypicolinoyl chloride hydrochloride as a colorless solid.

reactant | 4-hydroxypicolinic acid | 139.0 g | OC1=CC(=NC=C1)C(=O)O | C6H5NO3
reactant | thionyl chloride | 238.0 g | S(=O)(Cl)Cl | Cl2OS
product | 4-hydroxypicolinoyl chloride hydrochloride | Cl.OC1=CC(=NC=C1)C(=O)Cl | InChI=1S/C6H4ClNO2.ClH/c7-6(10)5-3-4(9)1-2-8-5;/h1-3H,(H,8,9);1H
